US04200580
n-Octylbromide (193 g, 1 m) was slowly added to a mixture of 25% sodium methoxide solution (216 g, 1 m), diethyl malonate (160 g, 1 m) and methanol (1 l) with stirring at room temperature. The resulting mixture was refluxed until neutral to litmus (about 24 hours). The solvent was stripped off and the residue was filtered and washed with chloroform. The filtrate was evaporated to remove chloroform and the residue was vacuum-distilled to yield diethyl n-octylmalonate (180 g, 66%) bp 105°-115° C./0.5-0.7 mm.

reactant | n-Octylbromide | 193 g | C(CCCCCCC)Br | C8H17Br
reactant | sodium methoxide | 216 g | C[O-].[Na+]
reactant | diethyl malonate | 160 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
solvent | methanol | 1 l | CO | CH4O
product | diethyl n-octylmalonate | 180 g, 66% | C(CCCCCCC)C(C(=O)OCC)C(=O)OCC | C15H28O4
